US07816371B2
c. 2-(4-Chloro-3-(trifluoromethyl)phenyl)-N-(2-(1-hydroxy-2-methylpropan-2-yl)-1-oxo-1,2-dihydroisoquinolin-5-yl)acetamide
To a solution of 2-(5-amino-1-oxoisoquinolin-2(1H)-yl)-2-methylpropyl acetate (90.0 mg, 0.000328 mol) in methylene chloride (2 mL, 0.03 mol) were added 2-(4-chloro-3-(trifluoromethyl)phenyl)acetic acid (120 mg, 0.00049 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (310 mg, 0.00082 mol) and N,N-diisopropylethylamine (300 μL, 0.002 mol). The reaction mixture was stirred overnight at room temperature. The mixture was then purified by HPLC. The combined pure fractions were concentrated in vacuo and taken up in methanol (2 mL, 0.06 mol). Potassium carbonate (136 mg, 0.000984 mol) was added and the mixture was stirred at room temperature for one hour. This was followed by purification using HPLC thus producing the title compound. 1H-NMR (400 MHz, DMSO-d6) δ 10.06 (s, 1H), 8.06 (d, 1H, J=8.09 Hz), 7.88 (d, 1H, J=1.06 Hz), 7.77 (dd, 1H, J=7.79 Hz), 7.73-7.67 (m, 2H), 7.51 (d, 1H, J=8.16 Hz), 7.40 (t, 1H, J=7.91 Hz), 6.56 (d, 1H, J=8.14 Hz), 4.99 (t, 1H, J=5.64 Hz), 3.91 (s, 2H), 3.88 (d, 2H, J=5.69 Hz), 1.57 (s, 6H).

reactant | 2-(5-amino-1-oxoisoquinolin-2(1H)-yl)-2-methylpropyl acetate | 0.000328 mol, 90.0 mg | C(C)(=O)OCC(C)(C)N1C(C2=CC=CC(=C2C=C1)N)=O | C15H18N2O3
reactant | methylene chloride | 0.03 mol, 2 mL | C(Cl)Cl | CH2Cl2
reactant | 2-(4-chloro-3-(trifluoromethyl)phenyl)acetic acid | 0.00049 mol, 120 mg | ClC1=C(C=C(C=C1)CC(=O)O)C(F)(F)F | C9H6ClF3O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.00082 mol, 310 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.002 mol, 300 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanol | 0.06 mol, 2 mL | CO | CH4O
reactant | Potassium carbonate | 0.000984 mol, 136 mg | C([O-])([O-])=O.[K+].[K+]
product | 2-(4-Chloro-3-(trifluoromethyl)phenyl)-N-(2-(1-hydroxy-2-methylpropan-2-yl)-1-oxo-1,2-dihydroisoquinolin-5-yl)acetamide | ClC1=C(C=C(C=C1)CC(=O)NC1=C2C=CN(C(C2=CC=C1)=O)C(CO)(C)C)C(F)(F)F | C22H20ClF3N2O3
